US08729274B2
A suspension of trans-2-benzyl-6-chloro-3a-methyl-7-vinyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole (0.095 mmol, 32 mg) and 5% Pd—C (4.74 μmol, 10.08 mg) in MeOH (3 ml) was stirred under H2 atmosphere (1 bar, multiple hydrogenator) at 20° C. for 1.5 h. The suspension was then passed through a Whatman membrane filter and the resulting filtrate was concentrated in vacuo to afford trans-2-benzyl-6-chloro-7-ethyl-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole (24.9 mg), m/z=340.2 [M+H]+.

reactant | trans-2-benzyl-6-chloro-3a-methyl-7-vinyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole | 0.095 mmol, 32 mg | C(C1=CC=CC=C1)N1C[C@]2(CCC3=C([C@@H]2C1)C=CC(=C3Cl)C=C)C | C22H24ClN
solvent | MeOH | 3 ml | CO | CH4O
catalyst | Pd—C | 4.74 μmol, 10.08 mg | [Pd] | Pd
product | trans-2-benzyl-6-chloro-7-ethyl-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole | 24.9 mg | C(C1=CC=CC=C1)N1C[C@]2(CCC3=C([C@@H]2C1)C=CC(=C3Cl)CC)C | C22H26ClN
